US07173129B2
4-{3E-[5-(1H-Indol-2-yl)-2,4-dimethoxyphenyl]acryloyl}-N-pyridin-2-ylbenzenesulfonamide
NH4Cl (25 mL) and transferred to a separatory funnel containing THF (50 mL), EtOAc (50 mL) and H2O (50 mL). The layers were cut and the organic layer was concentrated to dryness. The crude product was suspended in EtOH (50 mL), filtered and then dried under vacuum to afford 2.5 g (85% yield) of the title compound, analytical dada identical as above. Similarly, the title compound could be prepared from 4-acetyl-N-pyridin-2-ylbenzenesulfonamide (Ex-5A) and 5-(1-acetyl-1H-indol-2-yl)-2,4-dimethoxybenzaldehyde (Ex-57F) or 5-(1H-indol-2-yl)-2,4-dimethoxybenzaldehyde (Ex-57D or Ex-57DD).

reactant | 4-acetyl-N-pyridin-2-ylbenzenesulfonamide | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1 | C13H12N2O3S
reactant | 5-(1-acetyl-1H-indol-2-yl)-2,4-dimethoxybenzaldehyde | C(C)(=O)N1C(=CC2=CC=CC=C12)C=1C(=CC(=C(C=O)C1)OC)OC | C19H17NO4
reactant | 5-(1H-indol-2-yl)-2,4-dimethoxybenzaldehyde | N1C(=CC2=CC=CC=C12)C=1C(=CC(=C(C=O)C1)OC)OC | C17H15NO3
product | 4-{3E-[5-(1H-Indol-2-yl)-2,4-dimethoxyphenyl]acryloyl}-N-pyridin-2-ylbenzenesulfonamide | N1C(=CC2=CC=CC=C12)C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1)OC)OC | C30H25N3O5S
